US08207208B2
Step E: [(methoxy{[(3S,3aS,6R,6aS)-6-(nitrooxy)hexahydrofuro[3,2-b]furan-3-yl]oxy}phosphoryl)oxy]methyl 2-butyl-4-chloro-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate
Each diastereomer of [(methoxy{[(3S,3aS,6R,6aS)-6-(nitrooxy)hexahydrofuro[3,2-b]furan-3-yl]oxy}phosphoryl)oxy]methyl 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate was dissolved in methanol and heated to 70° C. for 2 hours. The residue was purified by HPLC reverse phase (C-18), eluting with acetonitrile/water+0.1% trifluoroacetic acid to give the title compound.

reactant | [(methoxy{[(3S,3aS,6R,6aS)-6-(nitrooxy)hexahydrofuro[3,2-b]furan-3-yl]oxy}phosphoryl)oxy]methyl 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate | C(CCC)C=1N(C(=C(N1)Cl)C(=O)OCOP(=O)(O[C@@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)O[N+](=O)[O-])OC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C49H47ClN7O11P
solvent | methanol | CO | CH4O
product | [(methoxy{[(3S,3aS,6R,6aS)-6-(nitrooxy)hexahydrofuro[3,2-b]furan-3-yl]oxy}phosphoryl)oxy]methyl 2-butyl-4-chloro-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate | C(CCC)C=1N(C(=C(N1)Cl)C(=O)OCOP(=O)(O[C@@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)O[N+](=O)[O-])OC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2 | C30H33ClN7O11P
